US07572820B2
2-[5-Cyano-2-cyclopropyl-4-(trifluoromethyl)-1H-indol-1-yl]acetamide
Synthesized as described in Example 4 using 2-cyclopropyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 2-bromoacetamide: 1H NMR (400 MHz, DMSO-d6) δ 7.82 (d, J=8.4 Hz, 1H), 7.71 (bs, 1H), 7.67 (d, J=8.4 Hz, 1H), 7.35 (bs, 1H), 6.37 (s, 1H), 5.02 (s, 2H), 1.94 (m, 1H), 0.99 (m, 2H), 0.77 (m, 2H); MS (ES) m/z 308 (M+1).

reactant | 2-cyclopropyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C1(CC1)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C13H9F3N2
reactant | 2-bromoacetamide | BrCC(=O)N | C2H4BrNO
product | 2-[5-Cyano-2-cyclopropyl-4-(trifluoromethyl)-1H-indol-1-yl]acetamide | C(#N)C=1C(=C2C=C(N(C2=CC1)CC(=O)N)C1CC1)C(F)(F)F | C15H12F3N3O
